US03973024
[o-(2-Methyl-6-chloro-anilino)-phenyl]-acetic acid (2-pyridyl)-methyl ester
A mixture of 1.0 g of [o-(2-methyl-6-chloro-anilino)-phenyl]-acetic acid, 15 ml of 2-hydroxymethyl-pyridine and 15 ml of anhydrous toluene is treated with 2 drops of concentrated sulphuric acid. The solution is heated to 130°C for 1 hour, during which the resulting water is distilled off azeotropically with the toluene. A further 20 ml of anhydrous toluene are added and again distilled off. The solution is then poured onto 150 g of ice. The mixture is twice extracted with 50 ml of ether at a time. The combined ether extracts are shaken with 15 ml of 2 N-hydrochloric acid at 5°C. The hydrochloric acid solution is separated off and rendered alkaline with 2 N-sodium hydroxide solution at 5°C. The suspension is extracted with 50 ml of ether and the ether solution is separated off, washed with 10 ml of water, dried over magnesium sulphate and evaporated to dryness under 0.1 mm Hg at 40°C. The residue is crystallised from ether-petroleum ether. [o-(2-methyl-6-chloro-anilino)-phenyl]-acetic acid (2-pyridyl)-methyl ester melts at 80°-82°C.

reactant | [o-(2-methyl-6-chloro-anilino)-phenyl]-acetic acid | 1.0 g | CC1=C(NC2=C(C=CC=C2)CC(=O)O)C(=CC=C1)Cl | C15H14ClNO2
reactant | 2-hydroxymethyl-pyridine | 15 ml | OCC1=NC=CC=C1 | C6H7NO
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | sulphuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | [o-(2-Methyl-6-chloro-anilino)-phenyl]-acetic acid (2-pyridyl)-methyl ester | N1=C(C=CC=C1)COC(CC1=C(C=CC=C1)NC1=C(C=CC=C1Cl)C)=O | C21H19ClN2O2
